US04110450
Ethyl [6-(4-methylpiperazin-1-yl)pyridazin-3-yl]-carboxylate can be obtained by heating a suspension of 3-cyano-6-(4-methylpiperazin-1-yl)pyridazine (40.7 g) in a mixture of distilled water (300 cc), ethanol (200 cc) and 10N aqueous sodium hydroxide (100 cc) at a temperature of about 80° for 5 hours. After cooling to a temperature of about 20° C, methylene chloride (200 cc) is added to the reaction mixture and the aqueous phase is decanted, acidified with 12N hydrochloric acid (100 cc) and evaporated to dryness under reduced pressure. Ethanol (250 cc), 1,2-dichloroethane (250 cc) and pure methanesulphonic acid (52.5 g) are added to the residue obtained. The resulting mixture is then heated under reflux for 20 hours. After cooling to a temperature of about 20° C, the insoluble material is filtered off and washed with methylene chloride (2 × 100 cc). A saturated aqueous solution of sodium carbonate (1000 cc) is added to the filtrate thus obtained. The resulting insoluble product is filtered off and washed with methylene chloride (2 × 200 cc). The aqueous phase is decanted and washed with methylene chloride (2 × 200 cc). The organic fractions are combined, dried over magnesium sulphate, filtered and evaporated to dryness under reduced pressure. Ethyl [6-(4-methylpiperazin-1-yl)pyridazin-3-yl]-carboxylate (9.5 g), melting at 106° C, is obtained.

reactant | 3-cyano-6-(4-methylpiperazin-1-yl)pyridazine | 40.7 g | C(#N)C=1N=NC(=CC1)N1CCN(CC1)C | C10H13N5
reactant | water | 300 cc | O | H2O
reactant | ethanol | 200 cc | C(C)O | C2H6O
reactant | sodium hydroxide | 10N, 100 cc | [OH-].[Na+]
solvent | methylene chloride | 200 cc | C(Cl)Cl | CH2Cl2
product | Ethyl [6-(4-methylpiperazin-1-yl)pyridazin-3-yl]-carboxylate | 9.5 g | CN1CCN(CC1)C1=CC=C(N=N1)C(=O)OCC | C12H18N4O2
